US07897766B2
2,2′-Bithiophene-5-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide hydrochloride
Prepared from (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride and 2,2′-bithiophene-5-carboxylic acid (Acros) according to methods A and C; yield 142 mg, 0.37 mmol (93%): 1H NMR (300 MHz, methanol-d4) δ 2.06-2.27 (m, 5H), 2.46 (s, 2H), 3.49 (d, J=13 Hz, 2H), 3.55 (s, 2H), 3.82 (d, J=13 Hz, 2H), 4.24 (s, 1H), 7.08 (dd, J=5, 4 Hz, 1H), 7.24 (d, J=4 Hz, 1H), 7.35 (dd, J=4, 1 Hz, 1H), 7.43 (dd, J=5, 1 Hz, 1H), 7.79 (d, J=4 Hz, 1H); MS (DCI/NH3) m/z 345 (M+H)+; Anal. C18H20N2OS2.HCl: C, H, N.

reactant | (4r)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine hydrochloride | Cl.N12CC3[C@H](C(CC(C1)C3)C2)N
reactant | 2,2′-bithiophene-5-carboxylic acid | S1C(=CC=C1C(=O)O)C=1SC=CC1 | C9H6O2S2
reactant | NH3 | N | H3N
product | 2,2′-Bithiophene-5-carboxylic acid(4r)-(1-azatricyclo[3.3.1.13,7]dec-4-yl)-amide hydrochloride | Cl.N12CC3[C@H](C(CC(C1)C3)C2)NC(=O)C2=CC=C(S2)C=2SC=CC2 | InChI=1S/C18H20N2OS2.ClH/c21-18(16-4-3-15(23-16)14-2-1-5-22-14)19-17-12-6-11-7-13(17)10-20(8-11)9-12;/h1-5,11-13,17H,6-10H2,(H,19,21);1H/t11?,12?,13?,17-;
